US04609485
Example 4 was repeated except that 2-(p-bromophenyl)-5-pyrimidinecarboxamidine hydrochloride and α-pentyl-62 -dimethylaminoacrolein in Example 4 were replaced by 2-(p-fluorophenyl)-5-pyrimidinecarboxamidine hydrochloride and α-propyl-62 -dimethylaminoacrolein, respectively, to obtain 2-(p-fluorophenyl)-5'-propyl-5,2'-bipyrimidinyl, which exhibited a C-N point of 199° C. and a N-I point of 203° C.

reactant | 2-(p-bromophenyl)-5-pyrimidinecarboxamidine hydrochloride | Cl.BrC1=CC=C(C=C1)C1=NC=C(C=N1)C(=N)N
reactant | 2-(p-fluorophenyl)-5-pyrimidinecarboxamidine hydrochloride | Cl.FC1=CC=C(C=C1)C1=NC=C(C=N1)C(=N)N
product | 2-(p-fluorophenyl)-5'-propyl-5,2'-bipyrimidinyl | FC1=CC=C(C=C1)C1=NC=C(C=N1)C1=NC=C(C=N1)CCC | C17H15FN4
